US07358243B2
(±)-1-[3-Tert-butoxycarbonyl-3,9-diaza-bicyclo[4.2.1]non-9-yl]-propan-1-one
To a mixture of (±)-3-tert-butoxycarbonyl-3,9-diaza-bicyclo[4.2.1]nonane (4.5 g, 20 mmol), diisopropylethylamine (3.85 ml, 22 mmol) in THF (50 ml) was added propionic acid anhydride (2.82 ml, 22 mmol) solved in THF (10 ml) over a time period of 10 min. The mixture was stirred at room-temperature for 1 h. The mixture was evaporated, aqueous sodium hydroxide (50 ml, 1M) was added and the mixture was extracted with diethyl ether (2×50 ml). The product was isolated as an oil. Yield 4.7 g (84%).

reactant | (±)-3-tert-butoxycarbonyl-3,9-diaza-bicyclo[4.2.1]nonane | 20 mmol, 4.5 g | C(C)(C)(C)OC(=O)N1CC2CCC(CC1)N2 | C12H22N2O2
reactant | diisopropylethylamine | 22 mmol, 3.85 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propionic acid anhydride | 22 mmol, 2.82 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (±)-1-[3-Tert-butoxycarbonyl-3,9-diaza-bicyclo[4.2.1]non-9-yl]-propan-1-one | C(C)(C)(C)OC(=O)N1CC2CCC(CC1)N2C(CC)=O | C15H26N2O3
